US04888439
N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)-3-pyrroline
Starting materials: 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid and 3-pyrroline.

reactant | 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C28H44O3
reactant | 3-pyrroline | N1CC=CC1 | C4H7N
product | N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)-3-pyrroline | CC(C(=O)N1CC=CC1)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C32H49NO2
